US06982274B2
3-(3-Fluorophenyl)-1H-6-indazolamine
To a solution of 300 mg of 3-(3-fluorophenyl)-6-nitro-1H-indazole in 5 ml methanol and 2.5 ml ethyl acetate was added 60 mg of 20% palladium hydroxide-carbon (water content: 50%), and the mixture was subjected to hydrogenation at room temperature at normal pressure for 7.5 hours. After adding 2.5 ml of ethyl acetate to the reaction mixture, the catalyst was filtered off through Celite. The solvent was evaporated, and the crude product was suspended in ethyl acetate-diisopropyl ether, to give 142 mg of the title compound as white crystals.

reactant | 3-(3-fluorophenyl)-6-nitro-1H-indazole | 300 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=CC=C12)[N+](=O)[O-] | C13H8FN3O2
solvent | methanol | 5 ml | CO | CH4O
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide carbon | 60 mg | [OH-].[Pd+2].[OH-].[C]
solvent | ethyl acetate | 2.5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-Fluorophenyl)-1H-6-indazolamine | 142 mg | FC=1C=C(C=CC1)C1=NNC2=CC(=CC=C12)N | C13H10FN3
